US07906511B2
2-(2-Cyclopropylaminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (Compound No. 4-1)
Cyclopropylamine (6.0 mL) was added to N-(3,5-dimethylphenyl)-2-(2-methylsulfinylpyrimidin-4-ylmethylthio)pyridine-3-carboxamide (990 mg, 2.4 mmol, Compound No. 1-27), and the mixture was stirred for 30 minutes at 80° C. The reaction mixture was diluted with ethyl acetate (80 mL), washed twice with water (50 mL), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, then the residue was purified by silica gel column chromatography to give 650 mg (recrystallized from ethanol) of the target compound as a colorless solid (Yield: 67%).

reactant | Cyclopropylamine | 6.0 mL | C1(CC1)N | C3H7N
reactant | N-(3,5-dimethylphenyl)-2-(2-methylsulfinylpyrimidin-4-ylmethylthio)pyridine-3-carboxamide | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=NC(=NC=C1)S(=O)C | C20H20N4O2S2
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Cyclopropylaminopyrimidin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | Yield: 67% | C1(CC1)NC1=NC=CC(=N1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C22H23N5OS
